US08168794B2
Method 1 of example 1 was followed using cis(+/−)-tert-butyl 5-(fluoromethyl)piperidin-3-ylcarbamate and 4-chloro-3-nitropyridine yielding cis(+/−)-tert-butyl 5-(fluoromethyl)-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate. LCMS (m/z): 355.1 (MH+); LC Rt=2.41 min.

reactant | cis(+/−)-tert-butyl 5-(fluoromethyl)piperidin-3-ylcarbamate | FC[C@@H]1C[C@@H](CNC1)NC(OC(C)(C)C)=O | C11H21FN2O2
reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
product | cis(+/−)-tert-butyl 5-(fluoromethyl)-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | FC[C@@H]1C[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H23FN4O4
